US07906517B2
Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate (300 mg) is dissolved in toluene (5 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (36 mg), 2-(di-tert-butylphosphino)biphenyl (47 mg), sodium tert-butoxide (57 mg) and morpholine (52 μl), and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=17:3→7:3) and further by silica gel column chromatography (hexane:ethyl acetate=4:1→3:2) to give tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate (13.3 mg). MS (m/z): 764 [M+H]+

reactant | Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)N(CCC(=O)OC(C)(C)C)CC)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C31H30BrF9N4O3
reactant | 2-(di-tert-butylphosphino)biphenyl | 47 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 57 mg | CC(C)([O-])C.[Na+]
reactant | morpholine | 52 μl | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate | 13.3 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C(=O)N(CCC(=O)OC(C)(C)C)CC)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C35H38F9N5O4
